US04675186
(3-Thienyl)glyoxal
3-Acetylthiophene (20.0 g., 0.159 mol) and SeO2 (19.4 g., 0.175 mol) were dissolved 100 ml. dioxane and 8 ml. H2O by warming to 35°, then heated at reflux 16 hours. The reaction mixture was cooled, filtered and the filtrate stripped to a sludge (the hydrate of title product in crude form). The latter was distilled at reduced pressure to yield title product contaminated with about 10% starting material, 8.53 g.; tlc (5:3 hexane:ethyl acetate) Rf 0.27 (title product) and 0.59 (3-acetylthiophene). The latter was chromatographed on silica gel with 5:3 hexane:ethyl acetate as eluant. Clean product fractions were combined stripped to a solid, triturated with hexane, filtered and the solids (5.60 g.) sublimed to yield purified title product, 3.20 g.; tlc Rf 0.27 as above; sublimation point 70°/1 mm; ms: parent 141, base 111.

reactant | hexane | CCCCCC | C6H14
reactant | 3-acetylthiophene | C(C)(=O)C1=CSC=C1 | C6H6OS
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (3-Thienyl)glyoxal | S1C=C(C=C1)C(=O)C=O | C6H4O2S
